US05648521
N,N '-Terephthaloylbiscaprolactam
Terephthaloyl chloride (51 g, 0.25 mol) is added in the course of 30 minutes to a solution of ε-caprolactam (56.6 g, 0.5 mol) in 400 ml of cyclohexane and 117 ml of pyridine at room temperature. The mixture is then refluxed for 4 h. After cooling, the resulting light yellow precipitate is filtered off by suction, washed with water and dried. Yield 81 g (91%).

reactant | Terephthaloyl chloride | 0.25 mol, 51 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | ε-caprolactam | 0.5 mol, 56.6 g | C1(CCCCCN1)=O | C6H11NO
solvent | cyclohexane | 400 ml | C1CCCCC1 | C6H12
solvent | pyridine | 117 ml | N1=CC=CC=C1 | C5H5N
product | N,N '-Terephthaloylbiscaprolactam | C(C1=CC=C(C(=O)N2C(CCCCC2)=O)C=C1)(=O)N1C(CCCCC1)=O | C20H24N2O4
